US07939569B1
To a vial containing [3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-phenylamino]-acetic acid ethyl ester (47 mg, 0.11 mmol) dissolved in dimethylformide (1 mL) was added lithium bis(trimethylsilyl)amide (1 M in THF, 0.13 mL, 0.13 mmol), diisopropylethyl amine (0.238 mL, 1.3 mmol) and acetyl chloride. The reaction was stirred at room temperature overnight. Reaction was filtered and purified by HPLC with increasing concentration of acetonitrile in water with 0.1% trifluoroacetic acid to yield {acetyl-[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-phenyl]-amino}-acetic acid ethyl ester as a clear film (10 mg, 21%). LC-MS (ES) calculated for C26H25F2NO5, 469.17; found m/z 470 [M+H]+.

reactant | [3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-phenylamino]-acetic acid ethyl ester | 0.11 mmol, 47 mg | C(C)OC(CNC1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC)=O | C24H23F2NO4
reactant | lithium bis(trimethylsilyl)amide | 0.13 mmol, 1 M, 0.13 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | diisopropylethyl amine | 1.3 mmol, 0.238 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | {acetyl-[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-phenyl]-amino}-acetic acid ethyl ester | C(C)OC(CN(C1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC)C(C)=O)=O | C26H25F2NO5
